US04622400
1,2,3,4-tetrahydro-7-hydroxyquinoline 3.0 g.
and phthalic anhydride 3.0 g. were heated as described in Example 11. Another 3.0 g. of the amino-phenol and 85% phosphoric acid 8 ml. were added and the contents heated under reflux in an oil-bath at 170° for three hours. A solution of 50% aqueous perchloric acid 8 ml. in methanol 80 ml. was added to the cooled reaction, the mixture refluxed and cooled at 0° overnight. Filtration gave 5.0 g. (44%) of dark red crystals.

reactant | phthalic anhydride | 3.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | amino-phenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | phosphoric acid | 8 ml | P(O)(O)(O)=O | H3O4P
reactant | perchloric acid | 8 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 80 ml | CO | CH4O
product | 1,2,3,4-tetrahydro-7-hydroxyquinoline | OC1=CC=C2CCCNC2=C1 | C9H11NO
